US06852726B2
To a solution of phenylhydrazine (5.0 g, 46 mmole) in acetic acid (50 ml) was added dihydro-thiophen-3-one (4.72 g, 46 mmole) at room temperature. Following an exothermic reaction, the temperature was maintained at 80° C. for 2 h. The reaction mixture was poured into water (300 ml) and the precipitate was filtered. Purification on a short column of aluminum oxide (activity II, 6% water) using t-butylmethylether as the eluting solvent gave pure 3,4-dihydro-2H-thieno[3,2-b]indole as a yellow solid (3.9 g, 48% yield), m.p. 152-155° C. (lit. m.p. 153° C., WO01/12603) Step 2

reactant | phenylhydrazine | 46 mmole, 5.0 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | dihydro-thiophen-3-one | 46 mmole, 4.72 g | S1CC(CC1)=O | C4H6OS
reactant | water | 300 ml | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 3,4-dihydro-2H-thieno[3,2-b]indole | 3.9 g, 48% yield | S1CCC=2NC=3C=CC=CC3C21 | C10H9NS
